US04886805
40 ml of thionyl chloride are added dropwise to a solution of 60 g of 2-[4-(2,4-difluorophenyl)piperazin-1-yl]ethanol, prepared in Example 2, in 300 ml of chloroform. When the addition is complete, the reaction mixture is heated under reflux for 5 hours. After return to room temperature, the crystals formed are filtered off, carefully washed with acetone and then dried to give 70 g of 1-chloro-2-[4-(2,4-difluorophenyl)piperazin-1-yl]ethane hydrochloride in the form of crystals melting at 218° C.

reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[4-(2,4-difluorophenyl)piperazin-1-yl]ethanol | 60 g | FC1=C(C=CC(=C1)F)N1CCN(CC1)CCO | C12H16F2N2O
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-chloro-2-[4-(2,4-difluorophenyl)piperazin-1-yl]ethane hydrochloride | 70 g | Cl.ClCCN1CCN(CC1)C1=C(C=C(C=C1)F)F | InChI=1S/C12H15ClF2N2.ClH/c13-3-4-16-5-7-17(8-6-16)12-2-1-10(14)9-11(12)15;/h1-2,9H,3-8H2;1H
